US07700655B2
(1) 2-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-(piperidine-1-carbonyl)-benzamide
Using 4-benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid (compound of Example 84(2)) and piperidine as the raw materials, the same operation as the Example 84(3) gave the title compound.

reactant | 4-benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]isophthalamic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H15F6NO4
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-(piperidine-1-carbonyl)-benzamide | Yield: 56.4% | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(=O)N1CCCCC1 | C28H24F6N2O3
